US07276612B2
Synthesis of N-hydroxy-4-{2-[3-(2,2,2-trifluoroethyloxymethyl)benzofuran-2-yl-carbonylamino]ethoxy}benzamide
4-{2-[3-(2,2,2-Trifluoroethoxymethyl)benzofuran-2-yl-carbonylamino]-ethoxy}-benzoate was dissolved in MeOH and excess aqueous hydroxylamine solution and NaOH(aq) were added to give pH 10-11. After stirring overnight, the reaction mixture was neutralized reaction to pH 7-8 with aqueous hydrochloric acid. The reaction mixture was concentrated in vacuo to give a solid which was collected and washed with water, then dissolved in acetonitrile and water and purified with prep HPLC to give the title compound (35 mg). 1H NMR (400 MHz, DMSO-d6) δ 11.04 (s, 1H), 8.95 (t, J=5.6 Hz,1H), 8.89 (s,1H), 7.81 (d, J=7.6 Hz, 1H), 7.70 (d, J=8.8 Hz, 2H), 7.63 (d, J=8.8 Hz, 1H), 7.50 (t, J=8.8 Hz, 1H), 7.36 (t, J=8.0 Hz, 1H), 7.00 (d, J=9.2 Hz, 2H), 5.25 (s, 2H), 4.18 (m, 4H), 3.67 (m, 2H). EM (calc.): 452.1; MS (ESI) m/e (M+1H)+: 453.0, (M−1H)−: 451.0.

reactant | 4-{2-[3-(2,2,2-Trifluoroethoxymethyl)benzofuran-2-yl-carbonylamino]-ethoxy}-benzoate | FC(COCC1=C(OC2=C1C=CC=C2)C(=O)NCCOC2=CC=C(C(=O)[O-])C=C2)(F)F
reactant | hydroxylamine | NO | H3NO
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | CO | CH4O
product | N-hydroxy-4-{2-[3-(2,2,2-trifluoroethyloxymethyl)benzofuran-2-yl-carbonylamino]ethoxy}benzamide | 35 mg | ONC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1COCC(F)(F)F)C=CC=C2)=O | C21H19F3N2O6
